### ISSUE TITLE
Tractatus: surface independence as explicit typeclass assumption

### ISSUE THREAD

**Issue by rjwalters** [rjwalters/lean-genius#10811]
## Problem

The `elementary_independence` theorem is trivially true because of the encoding choice `World := Sachverhalt → Prop` (full Boolean cube). Independence is baked into the model, not proved — but this isn't visible to the reader.

### 1. Introduce `IndependentWorlds` typeclass

```lean
class IndependentWorlds (S : Type) :=
  (realizable : ∀ assignment : S → Prop, ∃ w : World S, ∀ s, w s ↔ assignment s)
```

### 2. Show current model instantiates it trivially

```lean
instance : IndependentWorlds S := ⟨fun a => ⟨a, fun s => Iff.rfl⟩⟩
```

### 3. Construct an alternative model where independence fails

E.g., a model where two Sachverhalte are constrained to always co-occur:
```lean
def ConstrainedWorld (S : Type) := { w : S → Prop // some_constraint w }
```

Show `IndependentWorlds` does NOT hold for this model.

### 4. Refactor `elementary_independence` to use the typeclass

Make it clear this is an assumption about the world model, not a theorem about logic.

## Why

Per peer review: "independence is not proven — it is baked into the model." Surfacing this turns a silent assumption into a parameterized design choice, which is the core upgrade needed to make this a reference formalization.

## Acceptance Criteria

- [ ] `IndependentWorlds` typeclass defined
- [ ] Current model shown to instantiate it
- [ ] At least one constrained model where it fails
- [ ] `elementary_independence` refactored to depend on the typeclass
- [ ] Annotation explaining the modeling choice and its philosophical significance
- [ ] meta.json updated

## References

- TLP 1.21, 2.061-2.062 (independence of atomic facts)
- Peer review section 2.1

**Comment by rjwalters** [comment]
Curating this issue per user request.

## Technical Context

### Root Cause Analysis

The triviality identified by the peer review stems from the definition at line 68 of `proofs/Proofs/TractatusOntology.lean`:

```lean
def World := Sachverhalt → Prop
```

With this definition, `World S` is literally the type `S → Prop` — the full Boolean power-set of `S`. Every possible assignment of truth values to states of affairs is by construction a valid world. The witness in `elementary_independence` (line 261-262) is therefore just the identity:

```lean
theorem elementary_independence (assignment : S → Prop) :
    ∃ w : World S, ∀ s : S, w s ↔ assignment s :=
  ⟨assignment, fun _ => Iff.rfl⟩
```

The assignment `assignment` IS a `World S` by unfolding the type alias. The proof consists of nothing but unification. A reader who does not trace through the definition of `World` will incorrectly believe independence is a substantive theorem — which is exactly the philosophical weight TLP 2.061–2.062 places on it.

### Why This Matters for the Gallery

The `meta.json` lists `elementary_independence` as a core theorem under `mainTheorems`. The `keyInsights` array already acknowledges this ("The world-as-predicate encoding makes elementary independence trivially true — the assignment IS the world"), but the Lean source itself does not surface this tension. The peer review conclusion — "independence is not proven — it is baked into the model" — points to the gap between what the theorem header promises and what the proof actually delivers.

Introducing `IndependentWorlds` as an explicit typeclass transforms the silent assumption into a named, first-class citizen of the formalization. The current trivial instance documents the encoding choice. A constrained model that fails the typeclass demonstrates that the assumption has genuine mathematical content.

---

## Implementation Approach

There is one natural implementation path. A second option (using a `Prop`-valued predicate with an `IndependenceAxiom`) is described below for completeness.

### Option A — Typeclass (Recommended, as proposed in the issue)

**Step 1: Define the typeclass** — insert after `def World` (line 68, before Section 4):

```lean
-- ═══════════════════════════════════════════════════════════════
-- SECTION 3.5: Independence Structure (TLP 2.061, 2.062)
-- ═══════════════════════════════════════════════════════════════

/-
TLP 2.061: "Atomic facts are independent of one another."
TLP 2.062: "From the existence or non-existence of one atomic
            fact it is impossible to infer the existence or
            non-existence of another."

Independence is NOT a theorem about logic — it is a constraint
on the world model. We make this explicit with a typeclass.
A world model satisfying `IndependentWorlds` can realize any
truth-value assignment; a constrained model need not.
-/

class IndependentWorlds (S : Type) where
  realizable : ∀ assignment : S → Prop, ∃ w : World S, ∀ s, w s ↔ assignment s
```

**Step 2: Trivial instance for the current model** — immediately after the typeclass:

```lean
/-- The full Boolean cube `S → Prop` trivially satisfies independence:
    every assignment already IS a world. -/
instance : IndependentWorlds S :=
  ⟨fun a => ⟨a, fun _ => Iff.rfl⟩⟩
```

**Step 3: Refactor `elementary_independence`** — change the existing theorem (line 260-262) to depend on the typeclass instance:

```lean
theorem elementary_independence [IndependentWorlds S] (assignment : S → Prop) :
    ∃ w : World S, ∀ s : S, w s ↔ assignment s :=
  IndependentWorlds.realizable assignment
```

This makes the assumption visible in the theorem statement without changing the proof term for the current model.

**Step 4: Constrained model** — add a new section before Section 9 (Concrete Examples) or as a standalone section at the end:

```lean
-- ═══════════════════════════════════════════════════════════════
-- SECTION 8.5: Constrained World Model (TLP 2.061 contrast)
-- ═══════════════════════════════════════════════════════════════

/-
To show that `IndependentWorlds` is not vacuous, we exhibit a
model where independence fails. Consider two states of affairs,
`a` and `b`, where `b` is constrained to co-occur with `a`.
No world in this model can have `a` obtain while `b` does not.
-/

/-- A constrained world: `b` must obtain whenever `a` does. -/
def ConstrainedWorld (S : Type) (a b : S) :=
  { w : S → Prop // w a → w b }

/-- The full-world projection from a ConstrainedWorld. -/
def ConstrainedWorld.toWorld {S : Type} {a b : S}
    (cw : ConstrainedWorld S a b) : World S :=
  cw.val

/-- `IndependentWorlds` fails for the constrained model when `a ≠ b`.
    The assignment `{a ↦ True, b ↦ False}` has no constrained realizer. -/
theorem constrained_independence_fails (a b : S) (hab : a ≠ b) :
    ¬ ∀ assignment : S → Prop,
      ∃ cw : ConstrainedWorld S a b, ∀ s, cw.val s ↔ assignment s := by
  intro h
  -- The assignment that sets a to True and b to False
  let bad : S → Prop := fun s => s = a
  obtain ⟨⟨w, hw⟩, hmatch⟩ := h bad
  -- w a holds (from the match)
  have ha : w a := (hmatch a).mpr rfl
  -- w b holds (from the constraint)
  have hb : w b := hw ha
  -- but the match says w b ↔ b = a, i.e., False
  have hbad : ¬ w b := by
    rw [hmatch b]
    exact fun heq => hab heq.symm
  exact hbad hb
```

The proof sketch above should go through with `simp`/`exact` steps; the key logical content is that `bad a = True` and `bad b = False` combined with the subtype constraint creates a contradiction.

### Option B — Explicit Axiom Field (Alternative)

Instead of a typeclass, introduce independence as a named hypothesis passed to `elementary_independence`:

```lean
theorem elementary_independence
    (IndepAxiom : ∀ assignment : S → Prop, ∃ w : World S, ∀ s, w s ↔ assignment s)
    (assignment : S → Prop) :
    ∃ w : World S, ∀ s : S, w s ↔ assignment s :=
  IndepAxiom assignment
```

This is simpler but less idiomatic for Lean 4; it does not scale well if multiple theorems depend on independence. The typeclass approach (Option A) is preferred because it:
- Works with instance synthesis (no explicit threading of hypotheses)
- Is compatible with the existing `[Nonempty S]` instance convention already used in `world_constant_taut_or_contra`
- Integrates cleanly with the `ConstrainedWorld` counterexample

---

## Exact Insertion Points

All line numbers refer to `proofs/Proofs/TractatusOntology.lean` as of the current HEAD:

| Change | Location | Action |
|---|---|---|
| `IndependentWorlds` typeclass | After line 68 (`def World := ...`) | Insert new section 3.5 |
| Trivial instance | Immediately after typeclass | Insert instance declaration |
| Refactor `elementary_independence` | Lines 260-262 | Add `[IndependentWorlds S]` hypothesis, delegate to `.realizable` |
| `ConstrainedWorld` type + negative theorem | After line 381 (before Section 9) | Insert new section 8.5 |
| Gallery annotation | `src/data/proofs/tractatus-ontology/annotations.json` | Add annotation for the new section explaining the philosophical significance |
| `meta.json` updates | `src/data/proofs/tractatus-ontology/meta.json` | Update `assumptions`, `keyInsights`, `originalContributions`, `lineCount`, `axiomCount`, `theoremCount` |

The `axiomCount` in `meta.json` should remain 1 (the `silence : True` axiom). The `IndependentWorlds` instance for the current model is proved, not assumed. If `constrained_independence_fails` contains any `sorry`, that should be resolved before merge.

---

## Philosophical Annotation Guidance

The annotation for the `IndependentWorlds` section should convey:

1. **The encoding choice** — `World := S → Prop` is the full Boolean cube; it is one possible semantics for possible worlds, not the only one.
2. **The distinction between model constraint and logical theorem** — TLP 2.061 is a claim about the structure of reality, not a theorem of propositional logic. Encoding it as a typeclass makes this explicit.
3. **The Geach/Soames resonance** — Just as those critics showed that TLP 5.52 fails for infinite domains, the `ConstrainedWorld` counterexample shows that TLP 2.061 fails for constrained models. The Tractatus makes independence an implicit axiom about the structure of facts; this formalization makes it an explicit parameter.
4. **TLP 1.21 connection** — "Each thing can be the case or not the case while everything else remains the same" — exactly what `IndependentWorlds.realizable` captures.

---

## Acceptance Criteria (Detailed)

The existing checklist is sufficient. For the Builder's benefit, here are verification notes for each:

- **`IndependentWorlds` typeclass defined** — verify with `#check IndependentWorlds` and confirm it compiles without sorry
- **Current model instantiates it** — the `instance : IndependentWorlds S` proof term `⟨fun a => ⟨a, fun _ => Iff.rfl⟩⟩` should work; verify no sorry needed
- **At least one constrained model where it fails** — `constrained_independence_fails` should be a `theorem` (not `axiom`, not sorry); the proof sketch above should be adaptable
- **`elementary_independence` refactored** — the new signature should have `[IndependentWorlds S]` in square brackets; the old one-liner proof `⟨assignment, fun _ => Iff.rfl⟩` should be replaced by `IndependentWorlds.realizable assignment`
- **Annotation** — at minimum one annotation entry in `annotations.json` for the new section; its body should reference TLP 1.21, 2.061-2.062, and the encoding choice
- **`meta.json` updated** — at minimum: `lineCount` (will increase), `theoremCount` (gains at least `constrained_independence_fails`), `definitionCount` (gains `ConstrainedWorld`, `ConstrainedWorld.toWorld`), `originalContributions` (add entry about the typeclass), `keyInsights` (update the existing independence insight to mention the typeclass)

---

## Test Plan

- [ ] Manual verification: `./proofs/scripts/docker-build.sh Proofs.TractatusOntology` builds with no errors, no sorries, no warnings about unused variables in the new section
- [ ] Manual verification: `./proofs/scripts/docker-build.sh Proofs.TractatusQuantifiers` still builds (TractatusQuantifiers imports TractatusOntology; refactoring must not break the import)
- [ ] Automated: `pnpm build` passes (gallery data changes in `meta.json`/`annotations.json` do not break the site build)
- [ ] Edge cases: Verify `constrained_independence_fails` does not use `sorry`; use `#check @constrained_independence_fails` or search for sorry in the new section
- [ ] Philosophical review: Confirm the annotation text correctly attributes TLP 1.21 (not 2.062) as the primary locus of the "each thing can be the case independently" claim, which is closer to `realizable` than 2.061

---

## Affected Files

- `proofs/Proofs/TractatusOntology.lean` — Main changes: typeclass, instance, refactored theorem, constrained model section
- `proofs/Proofs/TractatusQuantifiers.lean` — Verify no breakage (imports TractatusOntology); likely no edits needed but must be checked
- `src/data/proofs/tractatus-ontology/meta.json` — Update `lineCount`, `theoremCount`, `definitionCount`, `originalContributions`, `keyInsights`, `assumptions`
- `src/data/proofs/tractatus-ontology/annotations.json` — Add annotation entry for new `IndependentWorlds` section
